US07420090B2
This Example describes the preparation of 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-methylsulphinyl-hept-4-yn-6-yl) butyramide (Compound No. 4 in Table 54)
To a stirred solution of 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-methylthio-hept-4-yn-6-yl) butyramide (0.21 g) in ethanol (2.5 ml) at ambient temperature was added dropwise a solution of sodium periodate (0.13 g) in water (2.5 ml). The mixture was stirred for 2.5 hours, stored for 18 hours then evaporated under reduced pressure. The residue was extracted with dichloromethane and the organic phase filtered then evaporated under reduced pressure to give the required product as a colourless oil, 0.18 g, 1H NMR (CDCl3) δ: 0.98-1.02(3H, t); 1.56(3H, s); 1.58(3H, s); 1.92-2.00(4H, m); 2.34-2.42((2H, m); 2.62(3H, s); 2.76-2.84(1H, m); 2.90-2.96(1H, m); 4.34-4.38(1H, m); 6.26(1H, s); 6.82(2H, s); 7.02(1H, s).

reactant | 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-methylthio-hept-4-yn-6-yl) butyramide | 0.21 g | ClC=1C=C(OC(C(=O)NC(C#CCCCSC)(C)C)CC)C=C(C1)Cl | C19H25Cl2NO2S
reactant | sodium periodate | 0.13 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | water | 2.5 ml | O | H2O
product | 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-methylsulphinyl-hept-4-yn-6-yl) butyramide | ClC=1C=C(OC(C(=O)NC(C#CCCCS(=O)C)(C)C)CC)C=C(C1)Cl | C19H25Cl2NO3S
